US07214802B2
4-(1-Methyl-1H-imidazol-2-yl)-morpholine (Nagarajan, K. et al. Indian J. Chem. Sect. B, 21, 10, 1982, 949–952) (1.02 g, 6.08 mmol) was dissolved in 35 mL of 1,4-dioxane under and N2 atmosphere. The mixture was heated to 60° C. and a solution of 0.34 mL (6.4 mmol) of Br2 in 10 mL of dichloroethane was added slowly. The mixture was heated for 1 h, then cooled. The mixture was concentrated and the residue was partitioned between 6.5 mL of 1 N NaOH and 25 mL of EtOAc. The NaOH solution was extracted twice more with EtOAc, and the extracts were washed with NaHCO3 and brine, dried with Na2SO4, filtered, concentrated, and chromatographed (0–4% MeOH (0.5% NH4OH) in CH2Cl2) to provide 464 mg of 4-(5-bromo-1-methyl-1H-imidazol-2-yl)-morpholine.

reactant | 4-(1-Methyl-1H-imidazol-2-yl)-morpholine | 6.08 mmol, 1.02 g | CN1C(=NC=C1)N1CCOCC1 | C8H13N3O
reactant | Br2 | 6.4 mmol, 0.34 mL | BrBr | Br2
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
solvent | N2 | N#N | N2
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 4-(5-bromo-1-methyl-1H-imidazol-2-yl)-morpholine | 464 mg | BrC1=CN=C(N1C)N1CCOCC1 | C8H12BrN3O
